US06083955
Sodium (693 mg) was added to and dissolved in 18.2 ml of aminoethanol. To this reaction solution was added 3.00 g of N-[6-chloro-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-phenylethenesulfonamide with stirring at room temperature. The reaction mixture was stirred at 60° C. for one hour and then at 80° C. for two hours followed by pouring into a mixture of 1N hydrochloric acid and ice. This solution was neutralized with a saturated sodium bicarbonate solution and extracted with ethyl acetate and the ethyl acetate layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated in vacuo and the resulting residue was purified by a silica gel column chromatography (chloroform-methanol=20:1). The resulting amorphous substance was pulverized in ether and collected by filtration to give 2.40 g of N-[6-(2-hydroxyethylamino)-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-phenylethenesulfonamide.

reactant | Sodium | 693 mg | [Na] | Na
reactant | N-[6-chloro-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-phenylethenesulfonamide | 3.00 g | ClC1=C(C(=NC(=N1)C1=NC=CC=N1)NS(=O)(=O)C=CC1=CC=CC=C1)OC1=C(C=CC=C1)OC | C23H18ClN5O4S
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | aminoethanol | 18.2 ml | NC(C)O | C2H7NO
product | N-[6-(2-hydroxyethylamino)-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-phenylethenesulfonamide | 2.40 g | OCCNC1=C(C(=NC(=N1)C1=NC=CC=N1)NS(=O)(=O)C=CC1=CC=CC=C1)OC1=C(C=CC=C1)OC | C25H24N6O5S
